US07504410B2
N-[3-[[(2R)-2-Amino-1 oxo-3-phenylpropyl]amino]-5-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]phenyl]pyrrolidine-1-carboxamid
1,1-Dimethylethoxy[(1R)-2-[[3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[[(pyrrolidin-1-yl)carbonyl]amino]phenyl]amino]-2-oxo-1(phenylmethyl)ethyl]carbamate (105 mg) and sulfuric acid (0.5 ml; 2 n) were stirred in dioxane (5 ml) at 85° C. for 3.5 h. After cooling and dilution with water saturated NaHCO3-solution was added and the resulting precipitate collected by filtration yielding the title compound (76 mg).

reactant | 1,1-Dimethylethoxy[(1R)-2-[[3-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]-5-[[(pyrrolidin-1-yl)carbonyl]amino]phenyl]amino]-2-oxo-1(phenylmethyl)ethyl]carbamate | 105 mg | CC(C)(ON(C([O-])=O)[C@@H](C(=O)NC1=CC(=CC(=C1)NC(=O)N1CCCC1)NC1=NC=C(C(=N1)OCC#C)Br)CC1=CC=CC=C1)C
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-[3-[[(2R)-2-Amino-1 oxo-3-phenylpropyl]amino]-5-[[5-bromo-4-(prop-2-ynyloxy)pyrimidin-2-yl]amino]phenyl]pyrrolidine-1-carboxamid | 76 mg | N[C@@H](C(=O)NC=1C=C(C=C(C1)NC1=NC=C(C(=N1)OCC#C)Br)NC(=O)N1CCCC1)CC1=CC=CC=C1 | C27H28BrN7O3
